US07435823B2
Step (b) 6-(6,7-Dimethoxy-quinolin-4-yloxy)-naphthalene-1-carboxylic acid(4-chloro-phenyl)-amide
The 6-hydroxy-naphthalene-1-carboxylic acid(4-chlorophenyl)-amide (Step a, 0.076 g, 0.254 mmol), Cs2CO3 (0.248 g, 0.762 mmol), 4-chloro-6,7-dimethoxy-quinoline (0.114 g, 0.508 mmol) and DMF (0.250 mL) were combined in a screw-cap test tube under N2. The tube was sealed and heated to 100° C. After 60 h at 100° C., the reaction was cooled to RT. The solvent was removed in vacuo, dissolved in EtOAc and washed with saturated aqueous NaHCO3 and brine. The organic layer was dried (Na2SO4), filtered and concentrated. The residue remaining after concentration was dissolved in MeOH and purified by reverse-phase HPLC (pH 10 buffer solvent system). The fractions containing the desired product were concentrated, dissolved in EtOAc, and washed with brine. The organic layer was dried (Na2SO4), filtered and concentrated to afford the title compound as a tan solid. M+H-485.1. Calc'd for C28H31N2O4-484.12.

reactant | 6-hydroxy-naphthalene-1-carboxylic acid(4-chlorophenyl)-amide | ClC1=CC=C(C=C1)NC(=O)C1=CC=CC2=CC(=CC=C12)O | C17H12ClNO2
reactant | Cs2CO3 | 0.762 mmol, 0.248 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 4-chloro-6,7-dimethoxy-quinoline | 0.508 mmol, 0.114 g | ClC1=CC=NC2=CC(=C(C=C12)OC)OC | C11H10ClNO2
solvent | DMF | 0.250 mL | CN(C)C=O | C3H7NO
product | 6-(6,7-Dimethoxy-quinolin-4-yloxy)-naphthalene-1-carboxylic acid(4-chloro-phenyl)-amide | ClC1=CC=C(C=C1)NC(=O)C1=CC=CC2=CC(=CC=C12)OC1=CC=NC2=CC(=C(C=C12)OC)OC | C28H21ClN2O4
